US07342080B2
According to the procedure for preparing FC-1/AM-1, but substituting AM-4 for AM-1, 50 g (41.29 mmol) of FC-1 was combined with 4.80 g (20.64 mmol) of AM-4 and concentrated to provide FC-1/AM-4, nominal molecular weight 2590.4, nominal equivalent weight=647.6 g/mol.

reactant | FC-1 | 41.29 mmol, 50 g | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl
reactant | AM-4 | 20.64 mmol, 4.80 g | C1=CC=C(C=C1)CC(=O)NC2=C(C=CC(=C2)N)O | C14H14N2O2
product | FC-1 AM-4 | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl.C1=CC=C(C=C1)CC(=O)NC2=C(C=CC(=C2)N)O | InChI=1S/C21H24ClNO.C14H14N2O2.ClH/c1-23-18-11-12-19(23)14-20(13-18)24-21(15-5-3-2-4-6-15)16-7-9-17(22)10-8-16;15-11-6-7-13(17)12(9-11)16-14(18)8-10-4-2-1-3-5-10;/h2-10,18-21H,11-14H2,1H3;1-7,9,17H,8,15H2,(H,16,18);1H
